US06011174
(2) Preparation of 3-(2-fluoro-4-biphenylyl)-5-phenylpentan-2-one
1.93 g of 60% oily sodium hydride was suspended in 70 ml of dimethylformamide, and a solution of 10.0 g of 2-fluoro-4-biphenylyl acetone in 30 ml of dimethylformamide, was added under cooling with ice with stirring, followed by stirring at room temperature for 50 minutes. Then, 7.20 ml of phenethyl bromide was added, followed by stirring at room temperature for 18 hours. The reaction solution was extracted by an addition of water and ethyl ether, and the organic layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1) to obtain 10.9 g of the above identified compound as a pale yellow oily substance.

reactant | sodium hydride | 1.93 g | [H-].[Na+]
reactant | 2-fluoro-4-biphenylyl acetone | 10.0 g | FC1=C(C=CC(=C1)CC(C)=O)C1=CC=CC=C1 | C15H13FO
reactant | phenethyl bromide | 7.20 ml | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-(2-fluoro-4-biphenylyl)-5-phenylpentan-2-one | FC1=C(C=CC(=C1)C(C(C)=O)CCC1=CC=CC=C1)C1=CC=CC=C1 | C23H21FO
